US06455528B1
Synthesis of N-(1-Methyl-1-(4-((4-(4-fluorophenyl)-piperazin-1-yl)methyl)phenyl)ethyl)acetamide
By similar reaction and treatment to that in Example 1(5) using 1-(4-fluorophenyl)piperazine instead of phenylpiperazine and N-(1-(4-chloromethylphenyl)-1-methylethyl)acetamide instead of N-(4-chloromethylphenylmethyl)acetamide, the title compound was obtained as pale-brown crystals, m.p.=104.5-106° C.

reactant | 1-(4-fluorophenyl)piperazine | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | N-(1-(4-chloromethylphenyl)-1-methylethyl)acetamide | ClCC1=CC=C(C=C1)C(C)(C)NC(C)=O | C12H16ClNO
product | N-(1-Methyl-1-(4-((4-(4-fluorophenyl)-piperazin-1-yl)methyl)phenyl)ethyl)acetamide | CC(C)(C1=CC=C(C=C1)CN1CCN(CC1)C1=CC=C(C=C1)F)NC(C)=O | C22H28FN3O
